US07713978B2
Description 25: 1,1-Dimethylethyl 5-[cis-3,5-dimethyl-4-(phenylmethyl)-1-piperazinyl]-2-(methyloxy)-3-pyridinecarboxylate
A mixture of 1,1-dimethylethyl 5-[cis-3,5-dimethyl-1-piperazinyl]-2-(methyloxy)-3-pyridinecarboxylate (D24) (500 mg, 1.56 mmol), potassium carbonate (430 mg, 3.12 mmol) and benzyl bromide (266 mg, 1.56 mmol) in N,N-dimethylformamide (10 ml) was stirred at 80° C. for 4 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic phase washed with water, dried and evaporated. Purification by flash chromatography eluting with 5-20% ethyl acetate in hexanes gave the title compound (D25). MS (ES+) m/e 412 [M+H]+.

reactant | 1,1-dimethylethyl 5-[cis-3,5-dimethyl-1-piperazinyl]-2-(methyloxy)-3-pyridinecarboxylate | 1.56 mmol, 500 mg | C[C@@H]1CN(C[C@@H](N1)C)C=1C=C(C(=NC1)OC)C(=O)OC(C)(C)C | C17H27N3O3
reactant | potassium carbonate | 3.12 mmol, 430 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.56 mmol, 266 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 5-[cis-3,5-dimethyl-4-(phenylmethyl)-1-piperazinyl]-2-(methyloxy)-3-pyridinecarboxylate | C[C@@H]1CN(C[C@@H](N1CC1=CC=CC=C1)C)C=1C=C(C(=NC1)OC)C(=O)OC(C)(C)C | C24H33N3O3
